Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Vertigo, shaking, headache, carotid aneurysm
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is a ___ right-handed ___ woman 
with
no significant past medical history who presented to OSH with 4
days of intermittent vertigo, lightheadedness, headache, and 
limb
shaking, and was found to have a 13mm left internal carotid
aneurysm. She was transferred to ___ for neurosurgical
evaluation, and neurology was consulted due to question of
dissection. History was obtained via chart review and her son 
who
translated. 

She had been in her usual state of health when on ___ night
at around 7 ___ she experienced sudden onset room spinning 
vertigo
after standing up from a couch. It was associated with vomiting.
According to her son, she could not walk and described 
everything
as moving. She said she "couldn't see" so closed her eyes. They
presented to ___ at approximately 9:30 ___. She
was administered 1L of fluids. On their evaluation, she
reportedly had direction-changing nystagmus, negative skew and
negative HIT. Admission was recommended for MRI, however the
family elected to go home as her symptoms had resolved (by
~12:30AM). The vertigo was constant, lasting the duration of the
above ~5 hours, but also worsened with movement.

She was asymptomatic on ___ and ___.  ___ morning
she was seen at her PCP's office. According to her son she had
difficulty getting out of the car due to recurrent vertigo and
shaking. During the visit, she complained of feeling very weak
and lightheaded, and was shaking and unable to walk. She was
referred to the ___ ED where MRI, CTA, and MRA 
were
ultimately performed due to finding of a 13mm aneurysms of the
extracranial left cervical ICA. She was subsequently transferred 
to ___ for
neurosurgical evaluation. 

She was seen by neurosurgery who did not feel that surgery was
indicated, and will follow her up as an outpatient, likely for
surveillance. They did recommend starting aspirin 325mg daily,
and requested neurology consultation due to question of carotid
dissection associated with the aneurysm, though none had been
interpreted per imaging at ___.   

She has a history of trauma. She "rolled down a hill" ___ years
ago in ___. There was loss of consciousness and head injury.
She fell from a small tree ___ years ago, but did not injure
herself significantly and did not lose consciousness. 

Neuro ROS: 
+ Headache (improved)
+ Vertigo (resolved)
+ Generalized shaking associated with vertigo/lightheadedness
+ Generalized weakness

- Denies confusion, difficulties producing or comprehending
speech, loss of vision, blurred vision, diplopia, tinnitus or
hearing difficulty. Denies focal weakness, numbness,
parasthesiae. 
 
General ROS: 
+ Weight loss
+ Nausea

- Denies recent fever, cough, SOB, diarrhea, dysuria. 
 
Past Medical History:
None 
 
Social History:
___
Family History:
No family history of strokes, aneurysms, tumors, or seizures. 
No history of bleeding or clotting disorders. 
No history of renal problems (i.e. cysts). 
 
Physical Exam:
On admission:
Vitals: T:98.1   HR:62   BP:123/80   RR:18   SaO2:99%
Orthostatic vitals: (S/p total 1500ml IVF today)
 - Supine 127/85
 - Sitting 131/79
 - Standing 130/89

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple.
Pulmonary: Normal work of breathing.
Cardiac: Well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic: (Via son translating ___ Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent per son. Normal prosody.
There were no paraphasic errors. Able to name both high and low
frequency objects.  No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm, brisk and symmetric. EOMI
without nystagmus. VFF to confrontation. No skew. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to speech. Head impulse testing negative. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. Proprioception
was intact in bilateral great toes. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      2     2
R   2            1      2     2 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF. 

-Gait: Romberg positive with sway and symptomatic complaint of
dizziness. However, Romberg negative on re-evaluation 20 minutes
later. (SBP 120s-130s in both instances.) During initial
evaluation, after standing for ~3 minutes began to have
generalized trembling of her extremities. On repeat examination,
able to remain upright for the same duration without symptoms. 
#ERROR!
On discharge:
Unchanged from admission except:
Pt asymptomatic, no vertigo, no headache. 

-past-pointing absent. 
-Gait deferred. 

 
Pertinent Results:
___ 08:15PM BLOOD WBC-6.2 RBC-4.06 Hgb-12.2 Hct-35.2 MCV-87 
MCH-30.0 MCHC-34.7 RDW-11.9 RDWSD-38.0 Plt ___
___ 08:15PM BLOOD Neuts-46.1 ___ Monos-6.3 Eos-0.6* 
Baso-0.6 Im ___ AbsNeut-2.87 AbsLymp-2.88 AbsMono-0.39 
AbsEos-0.04 AbsBaso-0.04
___ 09:18PM BLOOD ___ PTT-28.6 ___
___ 08:15PM BLOOD Glucose-92 UreaN-5* Creat-0.7 Na-140 
K-4.0 Cl-104 HCO3-26 AnGap-10
___ 08:15PM BLOOD ALT-10 AST-17 LD(LDH)-162 AlkPhos-55 
TotBili-0.6
___ 08:15PM BLOOD Calcium-9.1 Phos-4.7* Mg-2.0 Cholest-184
___ 02:51AM BLOOD %HbA1c-5.4 eAG-108
___ 08:15PM BLOOD Triglyc-80 HDL-39* CHOL/HD-4.7 
LDLcalc-129
___ 08:15PM BLOOD TSH-1.1
___ 08:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING: 
- ___ CT Head, CTA Head & Neck, MRI head, MRA head & neck 
with
T1 fat-sat (___)

CT HEAD
Gray-white differentiation is maintained. The ventricles are
normal in size and position. There is no intracranial 
hemorrhage,
abnormal mass-effect or extra-axial collection. There is carotid
and vertebral artery calcification. The calvarial vault and 
skull
base are intact. The visualized paranasal sinuses and mastoid 
air
cells are clear. 
IMPRESSION:
Atherosclerosis. No acute abnormality.. 

MRI BRAIN, MRA BRAIN & NECK NON-CONTRAST
MRA neck: 
Arch: Arch vessels are limited in evaluation. 
Vertebral arteries: The right and left vertebral artery are
patent. The left vertebral artery is dominant. Common carotid a
rteries: Right and left common carotid arteries are patent. 
Internal carotid arteries: The right internal carotid artery is 
tortuous. No hemodynamically significant stenosis. Left internal 

carotid artery is also tortuous. There is an aneurysm which
appears to be arising from the left internal carotid artery
measuring 1.1 x 1.2cm. CTA of the neck is suggested. 
MRA brain: 
Vertebral arteries: Intracranial vertebral arteries demonstrate
normal left vertebral artery. Hypoplastic right vertebral 
artery.

Basilar artery: Basilar arteries patent without hemodynamically 
significant stenosis. Posterior cerebral arteries: PCA are
patent. No stenosis. 
Internal carotid arteries: Petrous, cavernous and supraclinoid 
internal carotid arteries are patent. No stenosis. 
Middle cerebral arteries: Right and left MCA are patent without 
hemodynamically significant stenosis. There is normal distal 
branching. 
IMPRESSION: 
1. 1.2 cm sized aneurysm which appears to be arising from the
cervical left internal carotid artery. Follow-up with CTA of the
neck is suggested for further characterization of the aneurysm. 
2. Tortuous internal carotid arteries. However, no
hemodynamically significant stenosis. 
3. Unremarkable MRA of the brain. 
4. Dominant left vertebral artery. 

CTA HEAD/NECK
Neck: 
Aortic arch: Unremarkable. No occlusion, aneurysmal dilatation,
or dissection. The origins of the arch vessels are patent. The
right and left subclavian arteries are patent bilaterally. 
Right common carotid artery: Unremarkable. No occlusion,
stenosis, or dissection. Right internal carotid artery:
Unremarkable. No occlusion, stenosis, or dissection. 
Right external carotid artery: Unremarkable. 
Right vertebral artery: Unremarkable. 
Left common carotid artery: Unremarkable. No occlusion, 
stenosis,
or dissection. 
Left internal carotid artery: The artery is tortuous. There is a
13 mm aneurysm of the mid left internal carotid artery (series 2
image 235, series 601 image 25, series 602 image 37). There
appear to be one-vessel intrauterine the aneurysmal sac and 1
vessel exiting the aneurysmal sac. The vessels entering and
exiting the aneurysm sac proximally 4 mm in diameter. Otherwise,
the left internal carotid artery is patent. 
Left external carotid artery: Unremarkable. 
Left vertebral artery: Unremarkable. 
No soft tissue mass. The thyroid gland is unremarkable. The
airway is patent. The lung apices demonstrate mild emphysematous
findings. No significant lymphadenopathy. The epiglottis is not
thickened. Mild degenerative findings in the cervical spine.
Mucocele or retention cyst in the left maxillary sinus. The
mastoid air cells are clear. No abnormal air-fluid level. 
Brain: 
The intracranial internal carotid arteries are patent 
bilaterally
without evidence of occlusion, stenosis, dissection, or
aneurysmal dilatation. No significant stenosis or aneurysmal
dilatation of the circle of ___ vessels. The dural venous
sinuses are patent. The distal vertebral arteries and basilar
artery are patent. 
The brain parenchyma appears unremarkable. No space-occupying
lesion. No hydrocephalus. 
IMPRESSION: 
1. 1.3 cm aneurysm of the cervical left internal carotid artery. 

2. Otherwise, no significant stenosis of the neck or brain
arteries. 
 
Brief Hospital Course:
___ is a ___ right-handed ___ woman with no 
significant past medical history who presented to OSH with 4 
days of intermittent vertigo, lightheadedness, headache, and 
whole body trembling, and was found to have a 13mm aneurysm of 
the extracranial left internal carotid artery. Her history is 
significant for remote trauma (falling down a hill with loss of 
consciousness). Her initial examination is notable for positive 
Romberg and generalized shaking which occurred after several 
minutes of remaining upright (though these were absent on repeat 
exam 30 minutes later). Otherwise, there was no nystagmus, 
cranial nerves including hearing were normal, HIT was negative, 
proprioception and coordination were intact. 

She reported that her headaches and episodes of vertigo were 
associated with visual changes described as intermittent bright 
lights flashing in her right eye. Her symptoms completely 
resolved on day of discharge.A diagnosis of vestibular migraine 
was made.
She will be discharged with prn antiemetic to treat vestibular 
migraine. She will follow up with Neurology and Neurosurgery.  

Additionally, admission CXR was read as possible pneumonia vs 
artifact, however after addition of oblique views, it was 
determined that there was no radiologic evidence of pneumonia. 
She had no clinical signs/symptoms of pneumonia. 

#ERROR!
Transitional Issues: 
[ ] Neuro- consider migraine ppx if symptoms are frequent
[ ] NSGY- Schedule f/u after her case is discussed in the 
vascular/aneurysm case conference 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11 
2.  Metoclopramide 10 mg PO Q6H:PRN headache and/or vertigo 
RX *metoclopramide HCl 10 mg 1 tab by mouth every 6 hours as 
needed for either headache or dizziness Disp #*30 Tablet 
Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vestibular Migraine 
extracranial ICA dissection. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were hospitalized due to symptoms of vertigo, headache, and 
vision changes resulting from a migraine headache. You were also 
incidentally found to have an aneurysm in your left internal 
carotid artery. While this was not the cause of your symptoms, 
you should follow-up with neurology and neurosurgery. This may 
have come from trauma to your neck many years ago. 
 
 We are changing your medications as follows:  
 START metoclopramide as needed for headache or dizziness. 

 Please take your other medications as prescribed.  

 Please follow up with Neurology, Neurosurgery, and your primary 
care physician as listed below.
  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___